US08183380B2
2-Cyclopentyl-N-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-acetamide
The title compound was prepared in accordance with the general method 9 described in example 116 from cyclopentylacetyl chloride, triethylamine and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=386.7 (M+H+).

reactant | cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Cyclopentyl-N-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-acetamide | C1(CCCC1)CC(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12 | C25H27N3O
